US08232284B2
To a solution of pyridin-2-amine (101 mg, 1.08 mmol) and 4-chloroquinazolin-6-ylacetate (200 mg, 0.90 mmol) in toluene (4 ml), tris(dibenzylideneacetone)dipalladium (0) (82.0 mg, 0.090 mmol), (±)BINAP (112.0 mg, 0.180 mmol) and cesium carbonate (585 mg, 1.80 mmol) were added, and the mixture was stirred under nitrogen atmosphere at 120° C. for 2 hours. The reaction liquid was filtered, followed by vacuum concentration of the filtrate. The residue was suspended in water and then extracted with chloroform, and thereafter the combined organic layers were washed with water and a saturated saline solution and dried over anhydrous sodium sulfate, followed by being concentrated under reduced pressure. The resultant residue was dissolved in ammonia water (1 ml) and methanol (4 ml), and the solution was stirred at 50° C. for 2 hours. The reaction solution was cooled to room temperature and then concentrated under reduced pressure, the resultant residue was suspended in ether, and the precipitate was obtained through filtration, washed with ether and then dried to give 4-(pyridin-2-ylamino)quinazolin-6-ol (138 mg, yield: 64%) as a brown solid.

reactant | pyridin-2-amine | 1.08 mmol, 101 mg | N1=C(C=CC=C1)N | C5H6N2
reactant | 4-chloroquinazolin-6-ylacetate | 0.90 mmol, 200 mg | ClC1=NC=NC2=CC=C(C=C12)CC(=O)[O-]
reactant | cesium carbonate | 1.80 mmol, 585 mg | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | toluene | 4 ml | C1(=CC=CC=C1)C | C7H8
catalyst | tris(dibenzylideneacetone)dipalladium | 0.090 mmol, 82.0 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 4-(pyridin-2-ylamino)quinazolin-6-ol | 138 mg, yield: 64% | N1=C(C=CC=C1)NC1=NC=NC2=CC=C(C=C12)O | C13H10N4O
